US04753946
2-(3-Nitrophenylmethylidene)-3-oxobutanoic acid, 1-methylpropyl ester
A solution of sec-butyl acetoacetate (5.0 g, 0.031 moles), 3-nitrobenzaldehyde (4.7 g, 0.031 moles), 0.5 ml of piperidine and 0.5 ml of acetic acid in 50 ml of benzene was heated at reflux for one hour collecting 1 eq. of water. The cooled solution, in ethyl acetate, was washed with sodium hydrogen carbonate, potassium hydrogen sulfate and brine, dried and evaporated to give 9.2 g of the title A compound as a dark oil.

reactant | sec-butyl acetoacetate | 0.031 moles, 5.0 g | C(CC(=O)C)(=O)OC(C)CC | C8H14O3
reactant | 3-nitrobenzaldehyde | 0.031 moles, 4.7 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | water | 1 eq. | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 2-(3-Nitrophenylmethylidene)-3-oxobutanoic acid, 1-methylpropyl ester | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)OC(CC)C)C(C)=O | C15H17NO5
